* source CA1-Q2-A
R_R1         N00479 N00597  4  
R_R2         N00421 N00597  1  
R_R3         0 N00421  2  
V_V2         N00361 0 8Vdc
I_I1         N00421 N00479 DC 3Adc  
X_H1    N00361 N00597 N00479 0 SCHEMATIC1_H1 

.subckt SCHEMATIC1_H1 1 2 3 4  
H_H1         3 4 VH_H1 3
VH_H1         1 2 0V
.ends SCHEMATIC1_H1
